US05728370
2,2,6,6-Tetra(hydroxymethyl)benzo[1,2-d:4,5-d']bis(1,3) dithiole
2,2,6,6-Tetra(acetoxymethyl)benzo[1,2-d:4,5-d']bis(1,3)dithiole (1.8 g, 3.5 mmol) and K2CO3 (1.9 g) were stirred in methanol (100 mL) for 1 h at ambient temperature. The solvent was evaporated and water (100 mL) was added. The mixture was neutralized (2M HCl) and the precipitate was collected.

reactant | 2,2,6,6-Tetra(acetoxymethyl)benzo[1,2-d:4,5-d']bis(1,3)dithiole | 3.5 mmol, 1.8 g | C(C)(=O)OCC1(SC2=C(S1)C=C1C(SC(S1)(COC(C)=O)COC(C)=O)=C2)COC(C)=O | C20H22O8S4
reactant | K2CO3 | 1.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 2,2,6,6-Tetra(hydroxymethyl)benzo[1,2-d:4,5-d']bis(1,3) dithiole | OCC1(SC2=C(S1)C=C1C(SC(S1)(CO)CO)=C2)CO | C12H14O4S4
